US08609653B2
An ice cold suspension of 2-amino-4-bromo-3-methylphenol (3.81 g, 18.86 mmol) and potassium carbonate (10.42 g, 75 mmol) in N,N-Dimethylformamide (DMF) (25 mL) was treated by dropwise addition of bromoacetyl bromide (1.971 mL, 22.63 mmol). The mixture was warmed to ambient temperature and stirred for one hour. Water was added and the mixture was diluted with ethyl acetate. There were insoluble solids, so the entire mixture was passed through a fine glass frit to afford 6-bromo-5-methyl-2H-benzo[b][1,4]oxazin-3(4H)-one as an off-white solid (1.20 g, 26%). The filtrate was extracted with ethyl acetate. The extracts were washed with water, then brine, dried over sodium sulfate, filtered and concentrated to give slightly impure 6-bromo-5-methyl-2H-benzo[b][1,4]oxazin-3(4H)-one as a reddish-brown solid (3.05 g, 67%): 1H NMR (400 MHz, DMSO-d6) δ ppm 10.40 (br. s., 1 H), 7.15 (d, J=8.6 Hz, 1 H), 6.79 (d, J=8.6 Hz, 1 H), 4.50 (s, 2 H), 2.30 (s, 3 H); LC/MS (m/z) ES+=242 (M+1).

reactant | 2-amino-4-bromo-3-methylphenol | 18.86 mmol, 3.81 g | NC1=C(C=CC(=C1C)Br)O | C7H8BrNO
reactant | potassium carbonate | 75 mmol, 10.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetyl bromide | 22.63 mmol, 1.971 mL | BrCC(=O)Br | C2H2Br2O
reactant | Water | O | H2O
solvent | N,N-Dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-bromo-5-methyl-2H-benzo[b][1,4]oxazin-3(4H)-one | 1.20 g, 26% | BrC1=C(C2=C(OCC(N2)=O)C=C1)C | C9H8BrNO2
